US09193720B2
The 0.23 mL of 1M sodium hydroxide (9.3 mg, 0.23 mmol) was added to a solution (S)-isopropyl 2-(tert-butoxy)-2-(5-(4-(4-fluorophenethoxy)phenyl)-2,6-dimethyl-4-(4-(trifluoromethyl)piperidin-1-yl)pyridin-3-yl)acetate (50 mg, 0.078 mmol) in ethanol (1 mL) and stirred for 24 h at 90° C. An additional 0.23 mL sodium hydroxide was added and the reaction was continued for 24 h. The reaction mixture was neutralized with 1N HCl solution, extracted with EtOAc, and the organic layer was washed with brine, and dried (MgSO4). The crude material was purified by prep to afford (S)-2-(tert-butoxy)-2-(5-(4-(4-fluorophenethoxy)phenyl)-2,6-dimethyl-4-(4-(trifluoromethyl)piperidin-1-yl)pyridin-3-yl)acetic acid 42 mg (89%) as a mixture of diastereomers. 1H NMR (500 MHz, DMSO-d6) δ 7.41-7.38 (m, 2H), 7.21-7.20 (m, 1H), 7.14 (t, J=8.8 Hz, 2H), 7.0 (d, J=8.4 Hz, 2H), 6.95 (d, J=7.7 Hz, 1H), 5.54 (br. s, 1H), 4.23 (t, J=6.7 Hz, 2H), 3.96-3.94 (m, 2H), 3.07 (t, J=6.6 Hz, 2H), 2.90/2.74 (s, 2H), 2.46 (s, 3H), 2.55 (br. s, 1H), 2.03 (s, 3H), 1.72-1.61 (m, 3H), 1.56-1.54 (m, 1H), 1.10 (s, 9H). UPLC (M+H)=603.5.

reactant | sodium hydroxide | 0.23 mmol, 1M, 0.23 mL, 9.3 mg | [OH-].[Na+]
reactant | (S)-isopropyl 2-(tert-butoxy)-2-(5-(4-(4-fluorophenethoxy)phenyl)-2,6-dimethyl-4-(4-(trifluoromethyl)piperidin-1-yl)pyridin-3-yl)acetate | 0.078 mmol, 50 mg | C(C)(C)(C)O[C@H](C(=O)OC(C)C)C=1C(=NC(=C(C1N1CCC(CC1)C(F)(F)F)C1=CC=C(C=C1)OCCC1=CC=C(C=C1)F)C)C | C36H44F4N2O4
reactant | sodium hydroxide | 0.23 mL | [OH-].[Na+]
reactant | HCl | 1N | Cl | ClH
solvent | ethanol | 1 mL | C(C)O | C2H6O
product | (S)-2-(tert-butoxy)-2-(5-(4-(4-fluorophenethoxy)phenyl)-2,6-dimethyl-4-(4-(trifluoromethyl)piperidin-1-yl)pyridin-3-yl)acetic acid | 42 mg, 89% | C(C)(C)(C)O[C@H](C(=O)O)C=1C(=NC(=C(C1N1CCC(CC1)C(F)(F)F)C1=CC=C(C=C1)OCCC1=CC=C(C=C1)F)C)C | C33H38F4N2O4
